US06110967
N-t-butoxycarbonyl-L-phenylalanine methylamide:
N-t-Butoxycarbonyl-L-phenylalanine (2.65 g, 10.0 mmol) was dissolved in N,N-dimethylformamide (20 ml). To the solution were added a 40% aqueous solution (0.8 ml, 10.3 mmol) of methylamine, 1-hydroxybenzotriazole (1.48 g, 11.0 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (2.30 g, 12.0 mmol) under cooling with ice water. The mixture was stirred at room temperature for 2.5 hours. The reaction mixture was diluted with ethyl acetate, washed twice with water and each once with a 10% aqueous solution of citric acid, a saturated aqueous solution of sodium hydrogencarbonate and saturated brine, and dried over anhydrous magnesium sulfate. After the desiccant was separated by filtration, the solvent was distilled off under reduced pressure. The resultant solids were washed with diisopropyl ether to obtain 2.41 g of the title compound.

reactant | N-t-Butoxycarbonyl-L-phenylalanine | 10.0 mmol, 2.65 g | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C14H19NO4
reactant | methylamine | CN | CH5N
reactant | 1-hydroxybenzotriazole | 11.0 mmol, 1.48 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 12.0 mmol, 2.30 g | Cl.C(C)N=C=NCCCN(C)C
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-t-butoxycarbonyl-L-phenylalanine methylamide | 2.41 g | CNC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=CC=C1)=O | C15H22N2O3
